US08471005B2
[3-(4-Methyl-piperazin-1-yl)-phenyl]-[7-(1-methyl-1H-pyrazol-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine
3-(4-Methylpiperazin-1-yl)aniline (0.110 g, 0.574 mmol) and 2-Methanesulfinyl-7-(1-methyl-1H-pyrazol-4-yl)-pyrrolo[2,1-f][1,2,4]triazine (0.100 g, 0.383 mmol) were reacted in an analogous manner to Example 881D at 170° C. for 4 hours. Product was purified on Gilson HPLC, lyophilized and free-based with NaHCO3 to afford title compound as a yellow solid (44 mg, 27%) LC/MS: 389 (M+H)HPLC: retention time 1.781 minutes, purity=90%. 1H NMR (400 MHz, DMSO, δ, ppm): 9.65 (br s, 1H), 9.26 (s, 1H), 8.88 (s, 1H), 8.39 (s, 1H), 8.21 (s, 1H), 7.32 (d, J=6.69 Hz, 2H), 7.26 (dd, J=8.61, 8.13 Hz, 1H), 7.04 (d, J=4.8 Hz, 1H), 6.91 (d, J=4.8 Hz, 1H), 6.68 (d, J=7.4 Hz, 1H), 3.94 (s, 3H), 3.78 (d, J=13.0 Hz, 2H), 3.52 (d, J=12.0 Hz, 2H), 3.18-3.16 (m, 2H), 3.00-2.93 (m, 2H), 2.88 (d, J=4.0 Hz, 3H).

reactant | 3-(4-Methylpiperazin-1-yl)aniline | 0.574 mmol, 0.110 g | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
reactant | 2-Methanesulfinyl-7-(1-methyl-1H-pyrazol-4-yl)-pyrrolo[2,1-f][1,2,4]triazine | 0.383 mmol, 0.100 g | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=NN(C2)C | C11H11N5OS
product | [3-(4-Methyl-piperazin-1-yl)-phenyl]-[7-(1-methyl-1H-pyrazol-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | 44 mg, 27% | CN1CCN(CC1)C=1C=C(C=CC1)NC1=NN2C(C=N1)=CC=C2C=2C=NN(C2)C | C21H24N8
